US08735412B2
(RS)-S-(4-{[4-{[(1 R,2R)-2-Hydroxy-1-methylpropyl]amino}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide
0.38 ml of 4N solution of hydrogen chloride in dioxane was added to 399 mg (1.50 mmol) of (RS)-S-(4-aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide and 404 mg (1.50 mmol) of (2R,3R)-3-(2-chloro-5-trifluoromethyl-pyrimidin-4-ylamino)-butan-2-ol in 7.3 ml acetonitrile and stirred for 9 hours at 60° C. The mixture was evaporated to dryness. 32.2 ml methanol and 1040 mg (7.50 mmol) of potassium carbonate were added and it was stirred for 1.5 hours at room temperature. It was diluted with saturated sodium chloride solution and was extracted with ethyl acetate (3×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. 565 mg (1.40 mmol) of the raw product was obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | (RS)-S-(4-aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide | 1.50 mmol, 399 mg | NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C | C9H9F3N2O2S
reactant | (2R,3R)-3-(2-chloro-5-trifluoromethyl-pyrimidin-4-ylamino)-butan-2-ol | 1.50 mmol, 404 mg | ClC1=NC=C(C(=N1)N[C@@H]([C@@H](C)O)C)C(F)(F)F | C9H11ClF3N3O
reactant | potassium carbonate | 7.50 mmol, 1040 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 7.3 ml | C(C)#N | C2H3N
solvent | sodium chloride | [Cl-].[Na+]
solvent | methanol | 32.2 ml | CO | CH4O
product | (RS)-S-(4-{[4-{[(1 R,2R)-2-Hydroxy-1-methylpropyl]amino}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide | 1.40 mmol, 565 mg | O[C@@H]([C@@H](C)NC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)S(=O)(=N)C)C | C16H20F3N5O2S
